US09382188B2
A) (4-bromo-3-methylphenoxy)(tert-butyl)dimethylsilane
To a solution of 4-bromo-3-methylphenol (4.86 g) and imidazole (2.65 g) in DMF (100 mL) was added tert-butyldimethylchlorosilane (4.70 g), and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (6.97 g) as a colorless oil.

reactant | 4-bromo-3-methylphenol | 4.86 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | imidazole | 2.65 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 4.70 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (4-bromo-3-methylphenoxy)(tert-butyl)dimethylsilane | 6.97 g | BrC1=C(C=C(O[Si](C)(C)C(C)(C)C)C=C1)C | C13H21BrOSi
